US06344459B1
4-[(3-Bromo-phenyl)amino]-6-(ethenesulfonyl)-pyrido[3,4-d]-pyrimidine
To a 0-5° C. stirred suspension of 2-[4-(3-bromo-phenylamino)-pyrido[3,4-d]pyrimidine-6-sulfonyl]ethanol (41 mg, 0.1 mmol), and triethylamine (31 μL, 0.22 mmol) in dichloromethane (0.5 mL) under N2 was added dropwise methanesulfonyl chloride (9.3 μL, 0.12 mmol). Additional charges of methanesulfonyl chloride (9.3 μL, 9.3 μL) were added after 45 minutes, and 1.5 hours, the latter with additional triethylamine (50 μL). After reaction for a total of 2.5 hours, the cold solution was quenched with 5% aqueous sodium bicarbonate, then extracted with ethyl acetate (2×). The combined organic extracts were dried (MgSO4) then filtered through a pad of flash SiO2. The filtrate was concentrated to a solid that was crystallized from ethyl acetate to leave the product (17 mg, 44%), mp 214-217° C.

reactant | 2-[4-(3-bromo-phenylamino)-pyrido[3,4-d]pyrimidine-6-sulfonyl]ethanol | 0.1 mmol, 41 mg | BrC=1C=C(C=CC1)NC=1C2=C(N=CN1)C=NC(=C2)S(=O)(=O)CCO | C15H13BrN4O3S
reactant | triethylamine | 0.22 mmol, 31 μL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.12 mmol, 9.3 μL | CS(=O)(=O)Cl | CH3ClO2S
reactant | methanesulfonyl chloride | 9.3 μL | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 50 μL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 0.5 mL | ClCCl | CH2Cl2
product | 4-[(3-Bromo-phenyl)amino]-6-(ethenesulfonyl)-pyrido[3,4-d]-pyrimidine | 17 mg, 44% | BrC=1C=C(C=CC1)NC=1C2=C(N=CN1)C=NC(=C2)S(=O)(=O)C=C | C15H11BrN4O2S
